US08168828B2
Step b): Preparation of N,N-diethyl-5-methylhex-2-enamide
To a solution of 5-methylhex-2-enoic acid (formula-3) (20 grams) in dichloromethane (250 ml), 2 ml of dimethyl formamide was added. To this mixture thionyl chloride (24.1 grams) was added. The reaction mixture was stirred for 2.5 hours at 28-29° C. The reaction mixture was cooled to 0-5° C. and diethyl amine was added to the reaction mixture at 5-8° C. until the pH reached to 8.5. The reaction mixture was stirred for 1.5 hours at 0-5° C. The reaction mixture was quenched with water. Separated the aqueous and organic layers. The organic layer was washed with 5% sodium bicarbonate solution and was dried over anhydrous sodium sulphate. The solvent was distilled off completely under vacuum to provide the title compound as solid.

reactant | 5-methylhex-2-enoic acid | 20 grams | CC(CC=CC(=O)O)C | C7H12O2
reactant | thionyl chloride | 24.1 grams | S(=O)(Cl)Cl | Cl2OS
reactant | diethyl amine | C(C)NCC | C4H11N
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | dimethyl formamide | 2 ml | CN(C=O)C | C3H7NO
product | N,N-diethyl-5-methylhex-2-enamide | C(C)N(C(C=CCC(C)C)=O)CC | C11H21NO
